US08633182B2
Step 2: (1S,2S)-2-(4-Hydroxy-phenyl)-cyclopropanecarboxylic acid ethyl ester.
(1S,2S)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester (10.5 g, 35.62 mmol) is dissolved in trifluoroacetic acid (15 mL, 195.6 mmol) and stirred for 5 minutes. The mixture is concentrated under vacuum, then reevaporated five times from dichloromethane. The residue is dissolved in boiling cyclohexane (20 mL) and then allowed to cool. The cyclohexane layer is decanted off and the operation repeated. The residue is dried under vacuum to give the title compound (yield 6.51 g).

reactant | (1S,2S)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | 35.62 mmol, 10.5 g | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)OC(C)(C)C | C16H22O3
reactant | trifluoroacetic acid | 195.6 mmol, 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (1S,2S)-2-(4-Hydroxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | yield 6.51 g | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)O | C12H14O3
